US08754103B2
(5-Bromo-pyridin-2-yl)-hydrazine (5.0 g, 26.5 mmol) in chlorodifluoroacetic anhydride (11 mL) was heated in a microwave with careful monitoring of the pressure at 160° C. for 1 h. The reaction was cooled to room temperature before being carefully vented with a needle. The reaction was slowly added to a stirred saturated solution of sodium bicarbonate (250 mL), extracted with ethyl acetate and dried before being purified by flash chromatography (rf=0.5 in 1:1 hexanes/ethyl acetate) to give 6-bromo-3-(chloro-difluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine as a pale yellow powder.

reactant | (5-Bromo-pyridin-2-yl)-hydrazine | 26.5 mmol, 5.0 g | BrC=1C=CC(=NC1)NN | C5H6BrN3
reactant | sodium bicarbonate | 250 mL | C([O-])(O)=O.[Na+]
reactant | chlorodifluoroacetic anhydride | 11 mL | ClC(C(=O)OC(C(Cl)(F)F)=O)(F)F | C4Cl2F4O3
product | 6-bromo-3-(chloro-difluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | BrC=1C=CC=2N(C1)C(=NN2)C(F)(F)Cl | C7H3BrClF2N3
